US05466823
A 250 mL one-necked round-bottomed flask equipped with reflux condenser, nitrogen inlet and provisions for magnetic stirring was charged with 3-(4-chlorophenyl)-3-ketopropionaldehyde (18.3 g, 0.1 mol), 4-sulfonamidophenylhydrazine hydrochloride (11.2 g, 0.05 mol) and 100 mL of absolute ethanol. The solution was heated to reflux for 15 hour and then diluted with 100 mL of water and allowed to stand whereupon a white solid formed that was isolated by filtration on a Buchner funnel and air dried to provide 12.6 g, 76% of 4-[5-(4-chlorophenyl)-1H-pyrazol-1-yl]benzenesulfonamide, mp 185°-187° C. 1H nmr (CDCl3 /300 MHz) 7.89(d, J=8.7 Hz, 2H), 7.76(d, J=1.8 Hz, 1H), 7.43(d, J=8.7 Hz, 2H), 7.34(d, J=8.7 Hz, 2H), 7.17(d, J=8.7 Hz, 2H), 6.53(d, J= 1.8 Hz, 1H), 4.93(brs, 2H), mass spectrum MH+ =334.

reactant | 3-(4-chlorophenyl)-3-ketopropionaldehyde | 0.1 mol, 18.3 g | ClC1=CC=C(C=C1)C(CC=O)=O | C9H7ClO2
reactant | 4-sulfonamidophenylhydrazine hydrochloride | 0.05 mol, 11.2 g | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-[5-(4-chlorophenyl)-1H-pyrazol-1-yl]benzenesulfonamide | 12.6 g, 76% | ClC1=CC=C(C=C1)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)N | C15H12ClN3O2S
